US03931235
3-(p-Chlorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone
3-p-Chlorobenzylthio-4-hydroxy-6-methyl-2-pyrone (11.3 g., 0.0400 mol), 30% hydrogen peroxide (5.14 g., 0.0440 mol) and 50 ml. glacial acetic acid were combined and stirred at room temperature for 4 hours. Then stored at room temperature over night. The reaction mixture, containing a crystalline solid, was added to 200 ml. of icewater. The precipitate was collected and dried. The solids were recrystallized from a mixture of cyclohexane-toluene to recover 8.6 g. (72 percent) of the desired compound, m.p. 150°-151°C. One additional recrystallization from cyclo-hexane-toluene gave the pure compound as white platelets, m.p. 151°-152°C.

reactant | 3-p-Chlorobenzylthio-4-hydroxy-6-methyl-2-pyrone | 0.0400 mol, 11.3 g | ClC1=CC=C(CSC=2C(OC(=CC2O)C)=O)C=C1 | C13H11ClO3S
reactant | hydrogen peroxide | 0.0440 mol, 5.14 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(p-Chlorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone | ClC1=CC=C(CS(=O)C=2C(OC(=CC2O)C)=O)C=C1 | C13H11ClO4S
